Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
___:  Exploratory laparotomy, washout of
hemoperitoneum, debridement of laceration of the liver,
ileocecectomy, ileocolostomy.

___: Take back for Exploratory laparotomy, ileocectomy

___: ___ drainage of subhepatic/ right paracolic 
gutter collection

 
History of Present Illness:
___ car vs pole, ejected ~30ft, garbled speech at scene, +EtOH, 
transfer from OSH with C6 fracture, free fluid in abd/pelvis, 
hypotension ___. Per EMS was moving all 4 extremities at 
OSH. Taken to OR upon admission, found liver lacs and performed 
ileocecectomy. Brought to TICU intubated. Taken to OR for 
re-exploration on ___, evacuated ~1L old blood. 
 
Past Medical History:
s/p Left ankle ORIF  
s/p removal of adenoids 
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
On admission:
Constitutional: Intubated and sedated
HEENT: Pupils equal, round and reactive to light
Oropharynx within normal limits
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft, Nondistended, Nontender
GU/Flank: No costovertebral angle tenderness
Extr/Back: No cyanosis, clubbing or edema
Skin: No rash, Warm and dry
Neuro: Moves all extremities

 
Pertinent Results:
___ 12:00AM BLOOD WBC-10.8 RBC-4.50* Hgb-13.5* Hct-41.0 
MCV-91 MCH-30.1 MCHC-33.0 RDW-14.1 Plt ___
___ 12:00AM BLOOD ___ PTT-24.9* ___
___ 01:16AM BLOOD Glucose-138* UreaN-14 Creat-1.2 Na-136 
K-4.8 Cl-106 HCO3-16* AnGap-19

CT Head: No acute intracranial process with small left subgaleal 
hematoma.

CT Cspine: 
1.  Comminuted fracture of the left facet of the C6 vertebral 
body with 
extension into the lamina, pedicle and posterosuperior 
left-sided aspect of the C6 vertebral body. 
2.  Right-sided C6 pedicular fracture extending into the facet 
and right 
lateral C6 vertebral body. 
3.  Assessment of fracture extension into the transverse 
foramina is limited and as a result cannot fully be excluded.  
Thus, need for CTA to assess vertebral arteries is unclear.  
These findings were discussed with Dr. ___ by phone at 01:40.  
Initial findings were also discussed with Dr. ___ 
at 23:45 on ___. 
 
CT Sinus: Limited study due to motion without evidence of 
fracture.

CT Torso:
1.  Subcapsular hepatic hematoma with 1 or 2 segment VI, 4-5 cm 
lacerations, though others may be masked due to fatty liver and 
bolus timing 
2.  3.2 cm right adrenal hematoma and stranding about the left 
adrenal gland. 
3.  Stranding and free fluid in the mesentery as well as 
dependently in the pelvis suspicious for mesenteric and/or bowel 
injury, though no additional CT signs of bowel injury are 
identified. 
4.  Non-specific stranding about the aorta and IVC without 
evidence of frank extravasation. 
5.  Right sixth and seventh lateral rib fractures, right fifth 
rib anterior chondral fracture, left fifth through eighth 
anterolateral costochondral fracture-dislocations, and 
transverse process fractures at T6 and T12 through L5 as 
described above. 
6.  No evidence pulmonary contusion with atelectasis felt more 
likely.   
7.  Right axillary soft tissue contusion. 

MRI Cspine:
1. Mild STIR hyperintensity in bilateral C6 pedicles and facets. 
There is 
mal-alignment of bilateral C5-C6 facet joints, left more than 
right which is likely secondary to rotatory subluxation. The 
fractures of C6 facets are better seen on the CT cervical spine. 
No evidence of ligamentous injury. Increased mobility at this 
level can be assessed by flexion/extension views when patient is 
stable if clinically indicated. 
2. A T1 and T2 hypointense soft tissue in the anterior epidural 
space 
extending from C6-C7 disc posterior to C7 body. This likely 
represents an 
extruded disc with inferior migration. This causes deformity of 
the ventral surface of the spinal cord. 
3. No focal signal abnormality in the spinal cord.  
4. Degenerative changes in the cervical spine with multilevel 
neural foraminal stenosis. 
 
Brief Hospital Course:
Mr. ___ was admitted to the trauma ICU on ___ with the 
following injuries:
Bilateral pulmonary contusions
Right rib fractures ___
Left rib fractures ___
Fracture of C-spine at C6
Transverse process fracture T12-L5
Subcapsular liver hematoma
Segment 6 liver laceration (4cm)
Ileal mesenteric tear with small bowel ischemia
Blunt cardiac injury
Adrenal hematoma

In brief, he was taken to the operating room on admission from 
the ED.  There was a large mesenteric tear and associated small 
bowel ischemia.  This was resected; he had a ileo cecectomy with 
primary anastomosis.  He also was noted to have a liver 
laceration with associated liver ischemia, this was debrided.  
Post-op he was monitored in the ICU and was noted to be 
persistently tachycardic with an increasing pressor requirement. 
His lactate was elevated and rising and he was taken back to the 
OR for a ___ look laparotomy, also on ___.  Approximately 1 
liter of blood was found and an internal hernia. He was 
hemostatic at the end of the case and he was returned to the 
ICU.  The rest of his hospital course by systems below, but in 
brief was characterized by a prolonged wean from the ventilator, 
finally extubated on ___ and liver necrosis and eventual 
fluid collection which was drained by ___. His course is 
described below by system:

Neuro:  He was initially sedated while intubated with a 
combination of propofol, fentanyl and versed but this was weaned 
as appropriate and after extubation he was treated with Dilaudid 
for pain. Orthopedic Spine evaluation was requested for the 
cervical spine fracture- this was treated non operatively with a 
cervical collar. He will follow up in approx 4 weeks with Dr. 
___ have repeat spine films done. He was alert 
and oriented x 3 and neurologically intact with some bilateral 
upper extremity weakness that had improved during his admission.

Cardiac: Patient was hypotensive during the initial days postop 
and required pressors. He was weaned off Levophed on POD#3. Echo 
was performed to evaluate for blunt cardiac injury and the heart 
appeared hyperdynamic with no wall motion abnormalities. Patient 
was resuscitated with PRBC and albumin.  He remained 
hemodynamically stable throughout the rest of his hospital 
course. 

Resp:  He was intubated initially on scene then remained 
intubated post-operatively through two trips to the OR.  
Initially requiring high PEEPs this was eventually weaned though 
he continued to struggle with poor oxygenation and inability to 
wean from the vent, likely due to a combination of pneumonia 
(noted on CXR, BAL after bronch on ___ grew MSSA) and fluid 
overload.  He was placed on a Lasix drip to remove excess fluid 
and treated with levofloxacin (started on ___ for the 
pneumonia; he was eventually weaned to extubation on ___. He 
remained on 40mg PO Lasix daily while on the floor and continued 
to diurese well. He was changed to diamox on ___ to avoid 
hypercarbia. His supplemental oxygen was weaned and his oxygen 
saturation remained stable on room air. Continued pulmonary 
toileting and incentive spirometry were encouraged.  On ___ he 
underwent diagnostic and therapeutic thoracentesis for 1.5L and 
he symptomatically improved with saturations remaining in the 
mid to high 90's. Follow up CXR showed interval decrease in 
right pleural effusion with no evidence of pneumothorax after 
thoracentesis. 

GI: Patient was taken for emergent laparotomy on the night of 
admission. Postop, patient had persistent lactic acidosis and 
hypotension. Patient was taken back to OR for re-exploration, 
also on ___, as noted above.  He started to spike temperatures 
on ___.  In combination with his downtrending Hct (to 24), 
a CT scan was obtained on ___ it showed a fluid collection 
near a necrotic portion of the liver with fluid in the right 
paracolic gutter.  Hepatobiliary surgery was consulted and 
recommended a triple phase CT to assess progression of the liver 
ischemia/necrosis one week later (this was done on ___ to aid 
in surgical planning regarding debridement.  He was taken by ___ 
on ___ for drainage of the fluid collection near the drain.  
Cultures grew mixed bacteria as well as b. fragilis (he was 
started on Flagyl on ___ along with levofloxacin).

He had a triple phase CT on ___ which demonstrated progression 
of necrosis with expected walling off/organization of the liver 
necrosis.  Also of note on ___, the drainage from his liver 
collection drain (placed ___ by ___ changed from 
serosanguinous/yellow to thicker brown.  There was concern that 
this was stool from a leak in his anastomosis, so he was sent 
down urgently for a CT scan with contrast injected through the 
drain.  The contrast did not enter the bowel which was 
reassuring.  The drainage color change was attributed to 
additional necrosis of the liver which was now sloughing off and 
draining through the drain.

On transfer to the floor on ___ his tube feeds were discontinued 
and he was started on a regular diet. Nutritional supplements 
were added. He tolerated a regular diet and was started on a 
bowel regimen. 

He was discharged to home with the drainage catheter in place, 
teaching was provided to patient and his wife on the ___ and 
monitoring of the drainage catheter system.

GU: On admission, patient was in acute renal failure with 
rhabdomyolysis. He was aggressively hydrated and his creatinine 
improved with downtrend in his CK from 12,0000 to 700 after 
which the level was no longer checked as his urine output was 
excellent and his creatinine normalized.  His urine output was 
normal throughout his stay. On the floor he was diuresed as 
discussed above under respiratory. A Foley catheter remained in 
place for urine output monitoring until ___, at which time it 
was removed and he voided without difficulty. He was noted with 
scrotal edema primarily related to fluid overload; this did 
eventually improve significantly with intermittent diuresis 
using Lasix which was later changed to Diamox.

ID: Patient began to spike fevers on POD#4.  He was started on 
levofloxacin, as noted above, for an MSSA pneumonia and 
completed a 7 day course that was dc'd on ___.  The Flagyl was 
also started on ___ due to the cultures from the drain growing 
bacteroides.  This was continued until ___. At time of 
discharge he was afebrile with a normal white count of 8.2.

MSK: He was evaluated by Physical ad Occupational therapy and at 
time of discharge he was supervision level with the walker.

Dispo: He was discharged home with his wife and was provided 
with follow up appointments with his PCP, ___ surgery and 
Orthopedic Spine.

 
Medications on Admission:
Multivitamin, Vitamin D  

 
Discharge Medications:
1. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.  
2. magnesium hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO Q6H (every 6 hours) as needed for constipation.  
3. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for pain.
Disp:*80 Tablet(s)* Refills:*0*
4. multivitamin     Capsule Sig: One (1) Capsule PO once a day.  

5. Vitamin D3 4,000 unit Capsule Sig: One (1) Capsule PO once a 
day.  
6. senna 8.6 mg Tablet Sig: ___ Tablets PO once a day as needed 
for constipation.  
7. clobetasol 0.05 % Cream Sig: One (1) Appl Topical BID (2 
times a day).
Disp:*30 GM* Refills:*2*
8. quetiapine 25 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)) as needed for insomnia.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Polytrauma s/p motor vehicle crash:

Bilateral pulmonary contusions
Right rib fractures ___
Left rib fractures ___
Fracture of C-spine at C6
Transverse process fracture T12-L5
Subcapsular liver hematoma
Segment 6 liver laceration (4cm)
Ileal mesenteric tear with small bowel ischemia
Blunt cardiac injury
Adrenal hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
You were admitted to the hospital after a motor vehicle crash. 
You sustained multiple injuries including fractures in your 
neck, spine, ribs and an injury to your bowel and liver. You 
required an operation to repair your abdominal injury. You 
required a stay in the intensive ___ unit and were transferred 
to the surgical floor when stable. You are continuing to recover 
well from your accident and are now being discharged home with 
the following instructions:

You should remain in the cervical collar until follow up with 
Orthopedic Spine Surgery. Please follow up with Dr. ___ at 
the appointment scheduled below.

You sustained rib fractures which can cause severe pain and 
subsequently cause you to take shallow breaths because of the 
pain.
You should take your pain medicine as as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths.  
If the pain medication is too sedating, take half the dose and 
notify your physician.
Pneumonia is a complication of rib fractures. In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake. This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs. 
You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
Do NOT smoke.
Return to the ED right away for any acute shortness of breath, 
increased pain or crackling sensation around your rips 
(crepitus).
Narcotic pain medication can cause constipation. Thefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
If your doctor allows, non steriodal ___ drugs are 
very effective in controlling pain (i.e. Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.

General Drain ___:

*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).

*If the drain is connected to a collection container, please 
note color, consistency, and amount of fluid in the drain. Call 
the doctor if the amount increases significantly or changes in 
character. Be sure to empty the drain frequently. Record the 
output, if instructed to do so.

*Measure and record the output from the ___ catheter every 
day and be sure to bring a log/diary of this information with 
you to your Acute ___ Surgery Clinic follow up.

*Wash the area gently with warm, soapy water.

*Keep the insertion site clean and dry otherwise.

*Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.

*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.

You sustained rib fractures which can cause severe pain and 
subsequently cause you to take shallow breaths because of the 
pain.
You should take your pain medicine as as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths.  
If the pain medication is too sedating, take half the dose and 
notify your physician.
Pneumonia is a complication of rib fractures. In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake. This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs. 
You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
Do NOT smoke.
Return to the ED right away for any acute shortness of breath, 
increased pain or crackling sensation around your rips 
(crepitus).
Narcotic pain medication can cause constipation. Thefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.

ACTIVITY:
 
Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
You may climb stairs. 
You may go outside, but avoid traveling long distances until you 
see your surgeon at your next visit.
Don't lift more than ___ lbs for ___ weeks. (This is about the 
weight of a briefcase or a bag of groceries.) This applies to 
lifting children, but they may sit on your lap.
You may start some light exercise when you feel comfortable.
You will need to stay out of bathtubs or swimming pools for a 
time while your incision is healing. Ask your doctor when you 
can resume tub baths or swimming.
Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first.
 
HOW YOU MAY FEEL: 
 
You may feel weak or "washed out" for 6 weeks. You might want to 
nap often. Simple tasks may exhaust you.
You may have a sore throat because of a tube that was in your 
throat during surgery.
You might have trouble concentrating or difficulty sleeping. You 
might feel somewhat depressed.
You could have a poor appetite for a while. Food may seem 
unappealing.
All of these feelings and reactions are normal and should go 
away in a short time.  If they do not, tell your surgeon.
 
YOUR INCISION:
Do not remove steri-strips for 2 weeks. (These are the thin 
paper strips that might be on your incision.) But if they fall 
off before that that's okay.
Your incision may be slightly red around the stitches. This is 
normal.
You may gently wash away dried material around your incision.
It is normal to feel a firm ridge along the incision. This will 
go away.
Avoid direct sun exposure to the incision area.
Do not use any ointments on the incision unless you were told 
otherwise.
You may see a small amount of clear or light red fluid staining 
your dressing or clothes. If the staining is severe, please call 
your surgeon.
You may shower. As noted above, ask your doctor when you may 
resume tub baths or swimming.
Ove the next ___ months, your incision will fade and become 
less prominent.
 
YOUR BOWELS:
Constipation is a common side effect of medicine such as 
Percocet or codeine. If needed, you may take a stool softener 
(such as Colace, one capsule) or gentle laxative (such as milk 
of magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.
If you go 48 hours without a bowel movement, or have pain moving 
the bowels, call your surgeon.
 
 
PAIN MANAGEMENT:
It is normal to feel some discomfort/pain following abdominal 
surgery. This pain is often described as "soreness". 
Your pain should get better day by day. If you find the pain is 
getting worse instead of better, please contact your surgeon.
You will receive a prescription from your surgeon for pain 
medicine to take by mouth. It is important to take this medicine 
as directied. Do not take it more frequently than prescribed. Do 
not take more medicine at one time than prescribed.
Your pain medicine will work better if you take it before your 
pain gets too severe.
Talk with your surgeon about how long you will need to take 
prescription pain medicine. Please don't take any other pain 
medicine, including non-prescription pain medicine, unless your 
surgeon has said its okay.
If you are experiencing no pain, it is okay to skip a dose of 
pain medicine.
Remember to use your "cough pillow" for splinting when you cough 
or when you are doing your deep breathing exercises.
If you experience any of the folloiwng, please contact your 
surgeon:
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
 
DANGER SIGNS:
Please call your surgeon if you develop:
- worsening abdominal pain
- sharp or severe pain that lasts several hours
- temperature of 101 degrees or higher
- severe diarrhea
- vomiting
- redness around the incision that is spreading
- increased swelling around the incision
- excessive bruising around the incision
- cloudy fluid coming from the wound
- bright red blood or foul smelling discharge coming from the 
wound
- an increase in drainage from the wound
 
Followup Instructions:
___